US06982348B2
To a solution of (1RS,2RS)-2-amino-3-[4-(tert-butyl)benzyl]-1-(4-fluorophenyl)propan-1-ol (0.34 g, 1.1 mmol) in N,N-dimethylformamide (10 ml) were added 5-chloronaphthalene-1-carboxylic acid (208 mg, 1.0 mmol) and 1-hydroxybenzotriazole monohydrate (170 mg, 1.1 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (210 mg, 1.1 mmol) was finally added. The mixture was stirred overnight at room temperature. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) and recrystallization (hexane-ethyl acetate) to give N-[(1RS,2SR)-1-(4-tert-butylbenzyl)-2-(4-fluorophenyl)-2-hydroxyethyl]-5-chloro-1-naphthamide (265 mg, 57%) as colorless crystals.

reactant | (1RS,2RS)-2-amino-3-[4-(tert-butyl)benzyl]-1-(4-fluorophenyl)propan-1-ol | 1.1 mmol, 0.34 g | NC(C(O)C1=CC=C(C=C1)F)CCC1=CC=C(C=C1)C(C)(C)C | C20H26FNO
reactant | 5-chloronaphthalene-1-carboxylic acid | 1.0 mmol, 208 mg | ClC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7ClO2
reactant | 1-hydroxybenzotriazole monohydrate | 1.1 mmol, 170 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.1 mmol, 210 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(1RS,2SR)-1-(4-tert-butylbenzyl)-2-(4-fluorophenyl)-2-hydroxyethyl]-5-chloro-1-naphthamide | 265 mg, 57% | C(C)(C)(C)C1=CC=C(CC(C(O)C2=CC=C(C=C2)F)NC(=O)C2=CC=CC3=C(C=CC=C23)Cl)C=C1 | C30H29ClFNO2
